* C:\Users\shane\Documents\GitHub\coLAS\LTSpice\coLAS-analog-input\coLAS_analog.asc
V2 vcc 0 5
R1 N015 0 10k
C4 N010 N008 1n
C5 N009 N008 1n
C6 N009 N010 12p
R7 N009 N010 18k
XU2 0 N010 vcc 0 N009 LM324
V3 exp1 0 EXP(0 2 0 .0001 0.1m .0001)
V4 sin1 0 SINE(0 350m 40000 0 0 0 40)
B1 piezo_rx 0 V=V(exp1)*V(sin1)
R9 N005 N004 10k
C9 N001 N005 10n
XU3 0 N001 vcc 0 N002 LM324
R10 N002 N001 75k
C10 0 0 10n
C11 N003 N004 10n
R13 0 N003 10k
D1 N006 N007 D
R8 N007 0 10k
C7 N006 N002 .1µ
C8 N007 0 .01µ
XU1 piezo_rx N011 vcc 0 N012 level.2 Avol=1Meg GBW=3Meg Slew=2.4Meg ilimit=7m rail=0 Vos=2m phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R2 N012 N011 110k
C1 N011 N015 100n
XU4 N017 N013 vcc 0 N014 level.2 Avol=1Meg GBW=3Meg Slew=2.4Meg ilimit=7m rail=0 Vos=2m phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R3 N016 N014 3.9k
R4 N014 N013 10k
R5 0 N013 100k
R11 0 N017 3.9k
C3 N016 0 1n
V1 ac_test 0 AC .01
R12 N008 NC_01 2.2k
C2 N017 N012 1n
.model D D
.lib C:\Users\shane\Documents\LTspiceXVII\lib\cmp\standard.dio
.lib LM324.ti.lib
.tran .001
.step param Rx list 1 2
.param var2 table(Rx,1,18k,2,75k)
.param var1 table(Rx,1,2k2,2,6k2)
;ac dec 10 1000 100000
;op .001
.lib UniversalOpamps2.sub
.backanno
.end
