* C:\Users\shane\Documents\GitHub\coLAS\LTSpice\coLAS-analog-input\coLAS_analog.asc
V2 vcc 0 3.3
R1 N019 0 10k
C4 N010 N008 1n
C5 N009 N008 1n
C6 N009 N010 12p
R7 N009 N010 18k
XU2 0 N010 vcc 0 N009 LM324
V3 exp1 0 EXP(0 2 0 100u .08m 100u)
V4 sin1 0 SINE(0 5m 40000 0 0 0 160)
B1 piezo_rx 0 V=V(exp1)*V(sin1)
R9 N005 N004 10k
C9 N001 N005 10n
XU3 0 N001 vcc 0 N002 LM324
R10 N002 N001 75k
C10 0 0 10n
C11 N003 N004 10n
R13 0 N003 10k
D1 N006 N007 D
R8 N007 0 10k
C7 N006 N002 .1µ
C8 N007 0 .01µ
XU1 N022 N011 vcc 0 N012 level.2 Avol=1Meg GBW=3Meg Slew=2.4Meg ilimit=7m rail=0 Vos=2m phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R2 N012 N011 80k
C1 N011 N019 100n
XU4 N021 N015 vcc 0 N016 level.2 Avol=1Meg GBW=3Meg Slew=2.4Meg ilimit=7m rail=0 Vos=2m phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R3 N020 N016 3.9k
R4 N016 N015 10k
R5 0 N015 100k
R11 0 N021 3.9k
C3 N020 0 1n
V1 ac_test 0 AC .01
R12 N008 NC_01 2.2k
C2 N021 N012 1n
XU5 N020 N013 vcc 0 N014 level.2 Avol=1Meg GBW=3Meg Slew=2.4Meg ilimit=7m rail=0 Vos=2m phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R6 N013 0 10k
R14 N014 N013 18k
XU6 N014 N017 vcc 0 N018 level.2 Avol=1Meg GBW=3Meg Slew=2.4Meg ilimit=7m rail=0 Vos=2m phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R15 vcc N017 1Meg
R16 N017 0 15k
B2 noise 0 V=(white(2e6*time)/40)
R17 N022 noise 10k
R18 N022 piezo_rx 1k
.model D D
.lib C:\Users\shane\Documents\LTspiceXVII\lib\cmp\standard.dio
.lib LM324.ti.lib
.tran .001
.step param Rx list 1 2
.param var2 table(Rx,1,18k,2,75k)
.param var1 table(Rx,1,2k2,2,6k2)
;ac dec 10 1000 100000
;op .001
.lib UniversalOpamps2.sub
.backanno
.end
